US05166203
(1) 4-Benzyl-2-methoxymethylmorpholine
N-Benzylethanolamine (459 g) is mixed with 1,2-epoxy-3-methoxypropane (422 g) and the mixture is stirred at 50° C. for 16 hours and thereafter the excess 1,2-epoxy-3-methoxypropane is distilled off under reduced pressure. The residue is dissolved in 1,4-dioxane (3 liters) and thereto are added powdery potassium hydroxide (692.5 g) and tris(3,6-dioxaheptyl)amine (11.4 g). To the mixture is added dropwise with stirring a solution of p-toluenesulfonyl chloride (809.4 g) in 1,4-dioxane (2 liters) over a period of 1.5 hour, during which the temperature of the reaction mixture raises and the solvent is refluxed. After the dropwise addition, the mixture is stirred for 2 hours, and the undissolved materials are filtered off and washed with ethyl acetate. The filtrate and the washing liquid are combined and distilled under reduced pressure to remove the solvent. To the residue are added water (600 ml) and conc. hydrochloric acid (300 ml) to make acidic. The aqueous layer is washed with ethyl acetate, made strongly basic by adding sodium hydroxide (160 g) under ice cooling and extracted with ethyl acetate. The ethyl acetate layer is washed with saturated saline solution, dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The obtained residue is distilled under reduced pressure to give the title compound (391.3 g) as colorless liquid.

reactant | N-Benzylethanolamine | 459 g | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | 1,2-epoxy-3-methoxypropane | 422 g | O1CC1COC | C4H8O2
product | 4-Benzyl-2-methoxymethylmorpholine | 391.3 g | C(C1=CC=CC=C1)N1CC(OCC1)COC | C13H19NO2
